US06316466B1
5-Amino-1-(4-fluorophenyl)-4-[3-hydroxybenzoyl]pyrazole, from Example 10, step 2, (0.5 g, 1.68 mmol), 2-pyridylcarbinol (0.81 mL, 8.41 mmol), triphenylphospine (1.81 g, 6.9 mmol), and diethylazodicarboxylate (1.09 mL, 6.9 mmol)) were combined in toluene (50 mL). The reaction mixture was stirred for 16 hours then quenched with a saturated aqueous solution of NH4Cl and extracted three times with ethyl acetate. The product was then extracted from the ethyl acetate into a 10% aqueous solution of HCl. The aqueous layer was then neutralized with NaOH and extracted with ethyl acetate. The organic extracts were dried (MgSO4), filtered, and concentrated under vacuum. The residue was purified by column chromatography on silica gel using 1:1 hexane/ethyl acetate to give 0.165 g of 5-amino-1-(4-fluorophenyl)-4-[3-(pyridin-2-ylmethoxy)benzoyl]pyrazole (mpt. 176.1-177.3° C.).

reactant | 5-Amino-1-(4-fluorophenyl)-4-[3-hydroxybenzoyl]pyrazole | NC1=C(C=NN1C1=CC=C(C=C1)F)C(C1=CC(=CC=C1)O)=O | C16H12FN3O2
reactant | 2-pyridylcarbinol | 1.68 mmol, 0.81 mL, 0.5 g | N1=C(C=CC=C1)CO | C6H7NO
reactant | triphenylphospine | 6.9 mmol, 1.81 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | diethylazodicarboxylate | 6.9 mmol, 1.09 mL | CCOC(=O)/N=N/C(=O)OCC | C6H10N2O4
solvent | toluene | 50 mL | C1(=CC=CC=C1)C | C7H8
product | 5-amino-1-(4-fluorophenyl)-4-[3-(pyridin-2-ylmethoxy)benzoyl]pyrazole | 0.165 g | NC1=C(C=NN1C1=CC=C(C=C1)F)C(C1=CC(=CC=C1)OCC1=NC=CC=C1)=O | C22H17FN4O2
